Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Adhesive Bandage
 
Attending: ___.
 
Chief Complaint:
Multinodular goiter with compressive symptoms.

 
Major Surgical or Invasive Procedure:
1.  Total thyroidectomy.
2.  Autotransplantation of the left inferior parathyroid gland.
3.  Intraoperative nerve monitoring.
4.  Intraoperative thyroid ultrasound.

 
History of Present Illness:
Mr. ___ is a pleasant ___ with PMH HTN, asthma and 
symptomatic multinodular goiter of thyroid that is increasing in 
size presents with surgical evaluation. He has been followed for 
this goiter since ___ with annual ultrasounds and has underwent 
multiple FNAs of bilateral nodules all of which have shown 
benign cytology. Most recently, he underwent FNA of a left sided 
nodule that had grown 1 cm from a year ago. This biopsy also 
showed benign cytology. He has had persistent hoarseness for 
several years, which has been attributed to bilateral large 
nodules (measuring up to 4.1cm on the right and 5.1cm on the 
left on the most recent ultrasound).Total thyroidectomy has been 
recommended many times previously;however, patient has been 
reluctant to pursue surgery until now.
Given that the left-sided nodule had enlarged over the past 
year,he is now willing to discuss surgery. He denies any 
difficulty swallowing or throat pain today. His only complaint 
is ongoing hoarseness which has been unchanged over the past few 
years.

 
Past Medical History:
PMH: 
-HTN
-asthma
-multinodular goiter

 
Social History:
___
Family History:
-mother deceased, aged ___, from MI
-father deceased, aged ___, from MI
-sister and neice who underwent total thyroidectomy for goiter

 
Physical Exam:
GEN: NAD
HEENT: EOMI, MMM, no scleral icterus
CV: RRR
PULM: non-labored breathing, room air
wound: Neck incision c/d/i, no ecchymosis/erythema
EXT: WWP
NEURO: A&Ox3
PSYCH: appropriate mood, appropriate affect

 
Pertinent Results:
___ 06:48AM BLOOD Calcium-8.6
___ 06:45PM BLOOD Calcium-9.3
___ 06:48AM BLOOD ___-27
___ 06:45PM BLOOD ___-___ year old male who presents with symptomatic MNG now s/p total 
thyroidectomy with auto-transplantation of left inferior 
parathyroid. He tolerated the procedure well without 
complications (Please see operative note for further details). 
After a brief and uneventful stay in the PACU, the patient was 
transferred to the floor for further post-operative management.

Neuro: Pain was well controlled on Tylenol prn.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was initially started on a clear liquid diet 
after the procedure. The patient was later advanced to regular 
diet which was tolerated well.
GU: Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.
Endocrine:Calcium and PTH levels were trended and normal. 
Patient had no symptoms of hypocalcemia. POD #1 patient was 
started on thyroid hormone replacement, Levothyroxine.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever.
Heme: ___ dyne boots were used during this stay and he was 
encouraged to get up and ambulate as early as possible. 
On POD1, the patient was discharged to home. At discharge, he 
was tolerating a regular diet, voiding, and ambulating 
independently. 
 
Medications on Admission:
Medications - Prescription
ALBUTEROL SULFATE [PROAIR HFA] - ProAir HFA 90 mcg/actuation 
aerosol inhaler. 2 puffs(s) INH q6hprn
AMLODIPINE [NORVASC] - Norvasc 5 mg tablet. 1 Tablet(s) by mouth 
daily
ATORVASTATIN - atorvastatin 20 mg tablet. 1 tablet(s) by mouth 
daily
FLUTICASONE - fluticasone 50 mcg/actuation nasal 
spray,suspension. USE 2 SPRAYS IN EACH NOSTRIL DAILY DURING
ALLERGY SEASON
FLUTICASONE [FLOVENT HFA] - Flovent HFA 220 mcg/actuation 
aerosol inhaler. 2 puffs orally twice a day
HYDROCHLOROTHIAZIDE - hydrochlorothiazide 25 mg tablet. 1 
Tablet(s) by mouth daily
TADALAFIL [CIALIS] - Cialis 10 mg tablet. 1 tablet(s) by mouth 
before sexual activity DO NOT TAKE WITH TAMSULOSIN
TAMSULOSIN [FLOMAX] - Flomax 0.4 mg capsule. 1 capsule(s) by 
mouth daily
 
Medications - OTC
CARBOXYMETHYLCELLULOSE SODIUM [LUBRICANT EYE DROPS] - Lubricant
Eye Drops 0.5 %. 1 gtt ___ three times a day

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild/Fever  
2.  Levothyroxine Sodium 125 mcg PO DAILY 
RX *levothyroxine 125 mcg 1 tablet(s) by mouth once a day Disp 
#*30 Tablet Refills:*3 
3.  amLODIPine 5 mg PO DAILY  
4.  Atorvastatin 20 mg PO QPM  
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Multinodular goiter with compressive symptoms.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___,
You were admitted to ___ overnight for observation following 
your surgery. You did well postoperatively and were discharged 
home once you were eating, on oral medications, walking, and 
completing daily activities as normal. 
Medications: You were started on thyroid hormone medication 
(Levothyroxine), take as prescribed. For pain medication you may 
take acetaminophen (Tylenol) as recommended. You may restart all 
your usual home medications.

Symptoms of low calcium: If you develop tingling or numbness 
around your mouth, fingertips or legs, this may be a sign of a 
low calcium and you should call our office. If you develop 
severe symptoms, please go to emergency room.

Wound care:You may shower starting tonight ___. Allow warm 
soapy water to run over the wound, rinse and pat dry gently. 
There is no need to keep a dressing over the wound. Do not apply 
creams or ointments. Do not submerge the wound in a swimming 
pool or bath until cleared at your follow up visit. 

Diet:You may resume your regular home diet without restriction. 
You should use stick to foods that do not upset your stomach. 
You may need to start with small meals first and may not feel 
very hungry at first. This will improve over time. You may 
supplement your diet with protein shakes as needed if you do not 
feel you are taking in enough nutrition.

Activity:You may resume all of your normal home activities, 
except for straining or lifting heavy weight. We recommend you 
resume walking, exercise, bathing, per your normal regimen. No 
driving for 72 hours following your surgery. 

Warning signs:
You should contact our clinic or return to the ED immediately if 
you experience any of the following signs or symptoms:
Fever above 101.5
Worsening pain
Worsening GI upset, nausea/vomiting, diarrhea
Change in the appearance of your incision, or redness, swelling, 
or change in drainage from your incision
Any other symptoms that concern you

You can contact our clinic at any time with questions or 
concerns. You should be seen in our clinic for follow up 
following your discharge from the hospital. 

Best wishes,
Your ___ Care Team

 
Followup Instructions:
___